US09326516B2
1-(2-Hydroxy-1-(4-(trifluoromethyl)phenyl)ethyl)-3-(4-(1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)thiourea (C23)
The title compound was prepared with 2-amino-2-(4-(trifluoromethyl)phenyl)ethanol and 3-(4-isothiocyanatophenyl)-1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazole and isolated as a white solid (1.54 g, quantitative): 1H NMR (300 MHz, CDCl3) δ 8.09 (s, 1H), 7.66 (d, J=8.7 Hz, 2H), 7.43 (d, J=6.3 Hz, 1H), 7.30 (d, J=8.4 Hz, 2H), 7.20 (d, J=8.6 Hz, 2H), 7.02 (d, J=8.2 Hz, 2H), 6.88-6.69 (m, 4H), 6.61-6.50 (m, 2H), 5.27-5.07 (m, 1H), 3.48-3.40 (m, 1H), 3.40-3.24 (m, 1H); ESIMS m/z 552 ([M+H]+).

reactant | 2-amino-2-(4-(trifluoromethyl)phenyl)ethanol | NC(CO)C1=CC=C(C=C1)C(F)(F)F | C9H10F3NO
reactant | 3-(4-isothiocyanatophenyl)-1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazole | N(=C=S)C1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)C(F)(F)F | C16H9F3N4S
product | 1-(2-Hydroxy-1-(4-(trifluoromethyl)phenyl)ethyl)-3-(4-(1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)thiourea | OCC(C1=CC=C(C=C1)C(F)(F)F)NC(=S)NC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)C(F)(F)F | C25H19F6N5OS
